US04902698
(d) Methyl 4-(5-Benzenesulphonamidopyrid-2-yl)butanoate
Triethylamine (1 ml) in chloroform (10 ml) was added over 10 minutes to a solution of methyl 4-(5-aminopyrid-2-yl)-butanoate (1.5 g, 8.3 mmole) and benzene sulphonyl chloride (2.2 g, 12 mmole) in chloroform (20 ml). The solution was stirred for 4 hours. Chromatography on silica gel eluted with 5% v/v methanol in chloroform gave the title compound (1.46 g) as a straw coloured oil.

reactant | Triethylamine | 1 ml | C(C)N(CC)CC | C6H15N
reactant | methyl 4-(5-aminopyrid-2-yl)-butanoate | 8.3 mmole, 1.5 g | NC=1C=CC(=NC1)CCCC(=O)OC | C10H14N2O2
reactant | benzene sulphonyl chloride | 12 mmole, 2.2 g | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
product | Methyl 4-(5-Benzenesulphonamidopyrid-2-yl)butanoate | 1.46 g | C1(=CC=CC=C1)S(=O)(=O)NC=1C=CC(=NC1)CCCC(=O)OC | C16H18N2O4S
